US05272201
To a mechanically stirred solution of 83.66 g (94.3 mL, 0.939 mol) of 2-dimethylaminoethanol (distilled) and 95 g (131 mL) of triethylamine (Aldrich gold label) in 1L of dry dichloromethane maintained at 0° to -15° C. was added dropwise 100 g (98.3 mL, 0.939 mol) of isobutyryl chloride. The mixture was stirred 30 min at room temperature and treated with a solution of 100 g of sodium bicarbonate in water. The organic layer was washed with dilute sodium bicarbonate solution, dried with sodium sulfate and distilled to give 46.2 g of 2-dimethylaminoethyl isobutyrate, b.p. 59°-64° C. (8-10 mm). 1H-NMR (360 MHz, benzene-d6): 1.06 (d, J=6.6 Hz, 6 H, Me2CH), 2.05 (s, 6 H, CH3N), 2.33 (t, J=6 Hz, 2 H, CH2N), 2.39 (sept, J= 6.6 Hz, 1 H, Me2CH), 4.11 (t, J=6 Hz, 2 H, CH2O). Anal Calcd for C8H17NO2 : C 60.35, H 10.76, N 8.80; found: C 60.82, H 10.95, N 9.01.

reactant | 2-dimethylaminoethanol | 0.939 mol, 94.3 mL, 83.66 g | CN(CCO)C | C4H11NO
reactant | triethylamine | 131 mL, 95 g | C(C)N(CC)CC | C6H15N
reactant | isobutyryl chloride | 0.939 mol, 98.3 mL, 100 g | C(C(C)C)(=O)Cl | C4H7ClO
reactant | sodium bicarbonate | 100 g | C([O-])(O)=O.[Na+]
solvent | water | O | H2O
solvent | dichloromethane | ClCCl | CH2Cl2
product | 2-dimethylaminoethyl isobutyrate | 46.2 g | C(C(C)C)(=O)OCCN(C)C | C8H17NO2
